US04742057
A mixture of 2-amino-4-chloromethylthiazole hydrochloride (1 g) and pivalic anhydride (5 ml) was stirred at 115° C. for 2 hours. The reaction mixture was cooled and filtered and the insoluble material was washed with diethyl ether. The filtrate and washings were combined and concentrated under reduced pressure. The residue was washed with diethyl ether and dried to give 2-pivaloylamino-4-chloromethylthiazole (0.47 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 1 g | Cl.NC=1SC=C(N1)CCl
reactant | pivalic anhydride | 5 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | 2-pivaloylamino-4-chloromethylthiazole | 0.47 g | C(C(C)(C)C)(=O)NC=1SC=C(N1)CCl | C9H13ClN2OS
